US05432164
2-Bromo-N-(1-piperidinyl)adenosine
The above 2',3',5'-tri-O-acetyl-2-bromo-N-(1-piperidinyl)adenosine was treated with methanolic ammonia (10 ml) (previously saturated at -10° C.) and stirred at room temperature for 16 hours after which time TLC investigation indicated that the starting material was consumed and a new product was present [rf 0.24 (SiO2, ethyl acetate/methanol (90/10)]. The reaction mixture was evaporated and the resultant residue was treated with water (25 ml) and the suspension was extracted with ethyl acetate (2×25 ml). The combined extracts were dried (MgSO4) and coevaporated with dichloromethane; 1H NMR (400 MHz, Me2SO-d6) δ3.54, 3.65 (2H, ABX, H-5'a and H-5'b), 3.94 (1H, q, H-4'), 4.12 (1H, m, H-3'), 4.50 (1H, m, H-2'), 5.82 (1H, d, H-1'), 8.38 (1H, s, H-8). HPLC retention time 14.25 (gradient elution, 5-25% acetonitrile/0.1M pH 3.3 ammonium sulphate buffer: 214 nm detector).

reactant | 2',3',5'-tri-O-acetyl-2-bromo-N-(1-piperidinyl)adenosine | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)COC(C)=O)N1C=NC=2C(NN3CCCCC3)=NC(=NC12)Br | C21H27BrN6O7
solvent | ammonia | 10 ml | N | H3N
product | 2-Bromo-N-(1-piperidinyl)adenosine | BrC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)NN1CCCCC1 | C15H21BrN6O4
